US08232326B2
Synthesis of 2-(hydroxymethyl)-4-methoxy-6-((2-nitro-4-(trifluoro-methyl)-phenyl)diazenyl)-phenol
In a 500 ml round bottom flask equipped with a magnetic stirrer was added 19.9 g 2-nitro-4-(trifluoromethyl)-aniline (96.5 mmol) (Aldrich, Milwaukee, Wis.), 41 ml concentrated HCl (aq), 100 ml deionized water, 100 ml ethanol, and 80 ml THF. The suspension was stirred for 30 minutes and 7.07 g sodium nitrite (102 mmol) in 30 ml water was added dropwise over 60 minutes while keeping the reaction mixture at 0° C. The reaction mixture was stirred for an additional 1 hour. 300 mg Sulfamic acid was added to destroy excess nitrite. The mixture was filtered to remove undissolved solids. The filtered diazonium mixture along with a solution of sodium hydroxide (15.1 g in 100 ml water) were added dropwise to a solution containing 19.7 g (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol (107 mmol), 4.3 sodium hydroxide, 200 ml deionized water, and 50 ml THF at 0° C. The reaction mixture was allowed to stir at 0° C. for 1 hour and room temperature for 4 hours. The mixture was poured into 3 liters water. The mixture was acidified to pH 3-4. The dark crude product was filtered and washed with several liters of water to generate a dark solid which was dried under high vacuum at 55° C. for 72 hours to give 15.2 g (42% yield) product.

reactant | 2-nitro-4-(trifluoromethyl)-aniline | 96.5 mmol, 19.9 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3N2O2
reactant | HCl | 41 ml | Cl | ClH
reactant | sodium nitrite | 102 mmol, 7.07 g | N(=O)[O-].[Na+]
reactant | (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol | 107 mmol, 19.7 g | OC1=C(C=C(C=C1CO)OC)CO | C9H12O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
catalyst | Sulfamic acid | 300 mg | S(N)(O)(=O)=O | H3NO3S
solvent | water | 3 liters | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(hydroxymethyl)-4-methoxy-6-((2-nitro-4-(trifluoro-methyl)-phenyl)diazenyl)-phenol | 15.2 g, 42% yield | OCC1=C(C(=CC(=C1)OC)N=NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])O | C15H12F3N3O5
